US06900215B2
4-Bromonicotinonitrile (1.0 g, 5.5 mmol) was coupled to 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (1.9 g, 7.1 mmol) using the method in Example 51. Purification by chromatography on silica gel eluting with dichloromethane gave 4-(2-fluoro-5-nitrophenyl)nicotinonitrile as a white solid: δH (400 MHz, CDCl3) 7.44-7.52 (2H, m), 8.38-8.47 (2H, m), 8.95 (1H, d, J 5), 9.06 (1H, s).

reactant | 4-Bromonicotinonitrile | 5.5 mmol, 1.0 g | BrC1=CC=NC=C1C#N | C6H3BrN2
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 7.1 mmol, 1.9 g | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
product | 4-(2-fluoro-5-nitrophenyl)nicotinonitrile | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=NC=C1C#N | C12H6FN3O2
